US04276295
To an ice-cooled mixture consisting of 0.8 g of 2-amino-5-ethoxycarbonyl-4,6-dimethylbenzoic acid, 20 ml of dry benzene, and 0.5 ml of pyridine was added dropwise with stirring a solution of 0.4 ml of chloroacetyl chloride in 5 ml of benzene. The mixture was stirred overnight and then, shaken with dilute hydrochloric acid. The layers were separated. The aqueous layer was extracted with ethyl acetate, and the combined organic extracts were washed with water, dried over sodium sulfate, and evaporated. The residue was recrystallized from ethyl ether/n-hexane to give 0.65 g of 2-chloroacetylamino-5-ethoxycarbonyl-4,6-dimethylbenzoic acid (m.p. 124°-125° C.).

reactant | 2-amino-5-ethoxycarbonyl-4,6-dimethylbenzoic acid | 0.8 g | NC1=C(C(=O)O)C(=C(C(=C1)C)C(=O)OCC)C | C12H15NO4
reactant | pyridine | 0.5 ml | N1=CC=CC=C1 | C5H5N
reactant | chloroacetyl chloride | 0.4 ml | ClCC(=O)Cl | C2H2Cl2O
reactant | hydrochloric acid | Cl | ClH
solvent | benzene | 5 ml | C1=CC=CC=C1 | C6H6
solvent | benzene | 20 ml | C1=CC=CC=C1 | C6H6
product | 2-chloroacetylamino-5-ethoxycarbonyl-4,6-dimethylbenzoic acid | 0.65 g | ClCC(=O)NC1=C(C(=O)O)C(=C(C(=C1)C)C(=O)OCC)C | C14H16ClNO5
